US09085540B2
To a mixture of 3-{[3-bromo-4-(piperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide (523 mg) and ethanol (5 mL)-tetrahydrofuran (15 mL) were added 1H-benzotriazole-1-methanol (159 mg) and sodium triacetoxyborohydride (323 mg), followed by stirring at room temperature for 6 hours, then diluting with chloroform, and washing with a saturated aqueous sodium hydrogen carbonate solution. After the organic phase was dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-50:1:0.1) to obtain 3-{[3-bromo-4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide (447 mg) as a pale yellow solid.

reactant | 3-{[3-bromo-4-(piperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 523 mg | BrC=1C=C(C=CC1N1CCNCC1)NC=1C(=NC=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])C(=O)N | C21H20BrN7O4
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | 1H-benzotriazole-1-methanol | 159 mg | N1(N=NC2=C1C=CC=C2)CO | C7H7N3O
reactant | sodium triacetoxyborohydride | 323 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 3-{[3-bromo-4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 447 mg | BrC=1C=C(C=CC1N1CCN(CC1)C)NC=1C(=NC=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])C(=O)N | C22H22BrN7O4
